US06168838A
9-Fluoro-2-(2-(S)-fluorooctyloxy)-7-octylphenanthrene
From 9-fluoro-7-octylphenanthren-2-ol by reaction with 2-(S)-fluorooctan-1-ol by Mitsunobu reaction.

reactant | 9-fluoro-7-octylphenanthren-2-ol | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)O)CCCCCCCC | C22H25FO
reactant | 2-(S)-fluorooctan-1-ol | F[C@H](CO)CCCCCC | C8H17FO
product | 9-Fluoro-2-(2-(S)-fluorooctyloxy)-7-octylphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OC[C@H](CCCCCC)F)CCCCCCCC | C30H40F2O
